US08476302B2
A mixture of methyl 2-hydroxyoct-7-enoate (6.88 g, 0.040 mmol), dichloromethane (40 mL), 3,4-dihydro-2H-pyran (7.4 mL, 0.082 mol), and 6 drops of trifluoroacetic acid was stirred at room temperature overnight. The resulting mixture was concentrated in vacuo to yield methyl 2-(cyclohexyloxy)oct-7-enoate, which was used in the next step without further purification. A solution of methyl 2-(cyclohexyloxy)oct-7-enoate (500.0 mg, 1.95 mmol) dissolved in toluene (33 mL) containing 4-methyl-5-vinylthiazole (1.11 mL, 19.5 mmol) and Grubb's 2nd generation catalyst (166 mg, 0.195 mmol) was flushed with argon and heated in a sealed tube at 100° C. for 20 h. After cooling to room temperature, the solvent was removed in vacuo and the resulting residue was purified via flash silica gel chromatography (Analogix IF-280, SF25-115 g column, gradient 90:10-80:20 Heptane:EtOAc) to yield (E)-methyl 2-(cyclohexyloxy)-8-(4-methylthiazol-5-yl)oct-7-enoate. MS (ES+) 354 (M+1).

reactant | methyl 2-(cyclohexyloxy)oct-7-enoate | 1.95 mmol, 500.0 mg | C1(CCCCC1)OC(C(=O)OC)CCCCC=C | C15H26O3
reactant | 4-methyl-5-vinylthiazole | 19.5 mmol, 1.11 mL | CC=1N=CSC1C=C | C6H7NS
solvent | toluene | 33 mL | C1(=CC=CC=C1)C | C7H8
product | (E)-methyl 2-(cyclohexyloxy)-8-(4-methylthiazol-5-yl)oct-7-enoate | C1(CCCCC1)OC(C(=O)OC)CCCC\C=C\C1=C(N=CS1)C | C19H29NO3S
